US09079866B2
To a 200 mL round-bottomed flask were added a stirbar, 5-amino-3-cyano-2-bromopyrazine (4.09 g, 20.5 mmol), 4-chloro-2-fluorophenylboronic acid (3.90 g, 22.4 mmol), Pd(dppf)Cl2.CH2Cl2 (839 mg, 1.03 mmol) and K2CO3 (8.36 g, 60.5 mmol). The flask was flushed with nitrogen and then charged with toluene (17.5 mL), water (17.5 mL) and DMF (10.5 mL), all of which were sparged with N2. The flask was heated at 80° Celsius for 19 hours before cooling to rt and adding MgSO4 until the mixture was a thick paste. The reaction mixture was then stirred with EtOAc and filtered through a thick pad of celite. The pad was rinsed with EtOAc until the filtrate was colorless. The filtrate was concentrated to dryness and subjected to FCC to give 6-amino-3-(4-chloro-2-fluorophenyl)pyrazine-2-carbonitrile. MS (ESI): mass calcd. for C11H6ClFN4, 248.03; m/z found, 249.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.22 (s, 1H), 7.67-7.60 (m, 2H), 7.46 (dd, J=8.4, 2.0, 1H), 7.37 (s, 2H).

reactant | 5-amino-3-cyano-2-bromopyrazine | 20.5 mmol, 4.09 g | NC=1N=C(C(=NC1)Br)C#N | C5H3BrN4
reactant | 4-chloro-2-fluorophenylboronic acid | 22.4 mmol, 3.90 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | CH2Cl2 | 1.03 mmol, 839 mg | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 60.5 mmol, 8.36 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-amino-3-(4-chloro-2-fluorophenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)Cl)F | C11H6ClFN4
